### PR TITLE
[Merged by Bors] - feat(NumberTheory/ModularForms): mean square bound for q-expansions

### PR DESCRIPTION
**Pull request by loefflerd**
Show that the sum of the norm squares of the first `M` q-expansion coefficients of a modular cusp form grows like `M ^ k`, refining the Hecke bound for a single coefficient already in the library.

Upstreamed from the Mazur-Tate-Teitelbaum project on Prove2Me, see https://prove2.me/theorems/2c6274cd-4b5e-49cd-9daa-d45e670e9fdf.

---
**AI use**: this code was originally AI-written (by a bot run by Chris Birkbeck, instructed to follow some online notes of Zeev Rudnick). The code has been substantially refactored and cleaned up by me for use in Mathlib.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 1]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+  have hy : (0 : ℝ) < 1 / M := by positivity
+  have key (τ : ℍ) (hτ : τ.im = 1 / M) : ‖f τ‖ ^ 2 ≤ B ^ 2 * M ^ k := by
+    have h := hC τ
+    rwa [hτ, one_div_pow, mul_one_div, div_le_iff₀ (by positivity)] at h
+  -- Integrating this over a period gives a bound for the integral of `‖f‖ ^ 2`
+  have hint₀ : ∫ x in 0..h, ‖f ⟨x + (1 / M : ℝ) * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2 ≤
+      ∫ x in 0..h, B ^ 2 * M ^ k :=
+    intervalIntegral.integral_mono_on hh.le (Continuous.intervalIntegrable (by fun_prop) 0 h)
+      intervalIntegrable_const fun x _ ↦ key _ (by simp)
+  -- The result follows by comining this bound with the Bessel estimate for the norm square of the
```
Comment (wwylele) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]:
```suggestion
  -- The result follows by combining this bound with the Bessel estimate for the norm square of the
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 2]
```diff
@@ -342,6 +343,25 @@ lemma qExpansion_coeff_eq_intervalIntegral {f : ℍ → ℂ} (hh : 0 < h)
...
+      ↑(Real.exp (2 * Real.pi * n * y / h)) * fourier (-(n : ℤ)) (u : AddCircle h) := by
+    rw [fourier_coe_apply, Periodic.qParam, coe_I, one_div, ← exp_nat_mul, ← exp_neg, ofReal_exp,
+      ← exp_add]
+    push_cast
+    grind [I_sq]
+  rw [qExpansion_coeff_eq_intervalIntegral hh hfper hfhol hfbdd n hy,
+    fourierCoeffOn_eq_integral, sub_zero]
+  simp_rw [smul_eq_mul, hq, mul_assoc, intervalIntegral.integral_const_mul, real_smul]
+  norm_cast
+  grind
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]: **S1** (golf, 9 → 6 lines): `push_cast [...]` absorbs the rewrite chain, and the terminal `norm_cast; grind` is just `mul_left_comm`. (Moot if S8 is taken.)

```suggestion
    push_cast [fourier_coe_apply, Periodic.qParam, one_div, ← exp_nat_mul, ← exp_neg, ← exp_add]
    grind [I_sq]
  rw [qExpansion_coeff_eq_intervalIntegral hh hfper hfhol hfbdd n hy,
    fourierCoeffOn_eq_integral, sub_zero]
  simp_rw [hq, mul_assoc, intervalIntegral.integral_const_mul]
  simp [mul_left_comm]
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 3]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
   rw [petersson, ← Real.rpow_mul_natCast τ.im_pos.le]
   simp [abs_of_pos τ.im_pos, field]
 
+private lemma memLp_two_restrict_Ioc_of_continuous {g : ℝ → ℂ} (hg : Continuous g) (a b : ℝ) :
+    MeasureTheory.MemLp g 2 (MeasureTheory.volume.restrict (Set.Ioc a b)) := by
+  rw [MeasureTheory.memLp_two_iff_integrable_sq_norm (by fun_prop)]
+  exact Continuous.integrableOn_Ioc (by fun_prop)
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **2**: this private lemma is a two-call wrapper with a single use; the `MemLp` fact is inlined at its use in suggestion 3, so the lemma can go.

```suggestion
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 4]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+lemma sum_range_norm_sq_qExpansion_coeff_mul_exp_le {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
+    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
+    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) (M : ℕ) :
+    ∑ n ∈ Finset.range M,
+        ‖(qExpansion h f).coeff n‖ ^ 2 * Real.exp (-(4 * π * n * y / h)) ≤
+      h⁻¹ * ∫ x in 0..h,
+        ‖f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2 := by
+  let g : ℝ → ℂ := fun x ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩
+  have hg : Continuous g := by fun_prop
+  have hP := hasSum_sq_fourierCoeffOn hh (memLp_two_restrict_Ioc_of_continuous hg 0 h)
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **S2(b)** (goes with S2(a) above): the inlined `MemLp` fact. (Superseded by S6 if that is taken.)

```suggestion
  have hP := hasSum_sq_fourierCoeffOn hh <|
    (MeasureTheory.memLp_two_iff_integrable_sq_norm hg.aestronglyMeasurable).2
      (hg.norm.pow 2).integrableOn_Ioc
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 5]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+      congr 1
+      push_cast
+      ring
+    rw [qExpansion_coeff_eq_exp_mul_fourierCoeffOn hh hfper hfhol hfbdd hy n, norm_mul,
+      Complex.norm_real, Real.norm_of_nonneg (Real.exp_pos _).le, mul_pow]
+    linear_combination ‖fourierCoeffOn hh g n‖ ^ 2 * h1
+  rw [Finset.sum_congr rfl fun n _ ↦ hterm n,
+    ← Finset.sum_image (f := fun i : ℤ ↦ ‖fourierCoeffOn hh g i‖ ^ 2)
+      (Nat.cast_injective.injOn (s := (Finset.range M : Set ℕ)))]
+  exact sum_le_hasSum _ (fun i _ ↦ by positivity) hP
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **S3** (golf, 11 → 7 lines): `h1` via `Real.exp_eq_one_iff`, the `linear_combination` step as two rewrites, and the reindexing as a term. (Superseded by S6 if that is taken.)

```suggestion
      rw [sq, ← Real.exp_add, ← Real.exp_add, Real.exp_eq_one_iff]
      ring
    rw [qExpansion_coeff_eq_exp_mul_fourierCoeffOn hh hfper hfhol hfbdd hy n, norm_mul,
      Complex.norm_of_nonneg (Real.exp_pos _).le, mul_pow, mul_right_comm, h1, one_mul]
  simp only [hterm]
  exact (Finset.sum_image Nat.cast_injective.injOn).symm.trans_le
    (sum_le_hasSum _ (fun i _ ↦ by positivity) hP)
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 6]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+      ‖(qExpansion h f).coeff n‖ ^ 2 ≤ Real.exp (4 * π * M * y / h) *
+        (‖(qExpansion h f).coeff n‖ ^ 2 * Real.exp (-(4 * π * n * y / h))) by
+    grw [Finset.sum_le_sum this, ← Finset.mul_sum, mul_le_mul_iff_right₀ (by positivity)]
+    exact sum_range_norm_sq_qExpansion_coeff_mul_exp_le hh hfper hfhol hfbdd hy M
+  intro n hn
+  rw [mul_left_comm]
+  apply le_mul_of_one_le_right (by positivity)
+  rw [Real.exp_neg, ← div_eq_mul_inv, one_le_div₀ (Real.exp_pos _), Real.exp_le_exp]
+  simp_rw [mul_div_assoc, mul_right_comm]
+  exact mul_le_mul_of_nonneg_left (mod_cast (Finset.mem_range.mp hn).le) <| by positivity
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **4** (golf, 12 → 5 lines): move the exponential to the left as a weight inside the sum, replace the integral by the weighted Bessel sum, and let `gcongr` do the term-wise comparison.

```suggestion
  rw [← mul_inv_le_iff₀' (Real.exp_pos _), ← Real.exp_neg, Finset.sum_mul]
  grw [← sum_range_norm_sq_qExpansion_coeff_mul_exp_le hh hfper hfhol hfbdd hy M]
  -- reduce to term-wise inequality
  gcongr with n hn
  exact Finset.mem_range_le hn
```

**Review by CBirkbeck — COMMENTED** [review]
**This is Chris experimenting with leaving an AI review on this PR. Please feel free to ignore any bits (or all of it)!** The review was generated by Claude Code, run by me against a local checkout of this branch; nothing here is blocking and it's all just offered as material to take or leave.

The suggestions below (labelled 1–7) form **one consistent set**: applying all of them together gives a file that compiles (checked locally by applying exactly these suggestions to the PR head: the two files and everything downstream of them build, `lint-style` clean). They also work individually, except that the parts of 1 go together, and 6 only makes sense with 3 and 5.

- **1(a)–(d): keep the Fourier / L² import out of `QExpansion.lean`** by moving `qExpansion_coeff_eq_exp_mul_fourierCoeffOn` to `Bounds.lean` (the import adds 139 transitive modules to the 19 files downstream of `QExpansion.lean`; `Bounds.lean` has one downstream file).
- **2:** delete the private `MemLp` lemma (a two-call wrapper with one use; it's inlined in 3).
- **3: Parseval as an equality** (`HasSum` over `ℕ`). The negative-index Fourier coefficients of `x ↦ f (x + iy)` vanish by Cauchy's theorem for `z ^ n * cuspFunction h f z` on a circle in the `q`-disc, reusing your change of variables; the Bessel inequality then becomes a one-line corollary.
- **4:** `sum_range_norm_sq_qExpansion_coeff_le` in 5 lines via `gcongr` (comment kept).
- **5: the mean-square bound for any strict period** `h` (same proof, golfed, comments kept), with the `strictWidthInfty` statement as a one-line corollary and an `IsBigO` form.
- **6:** module docstring bullets for 3 and 5.
- **7:** the `MFDeriv/Basic.lean` change isn't needed for this PR (`hfhol.continuous.comp (by fun_prop)` suffices, and `ModularFormClass.continuous` is already `fun_prop`), which would avoid rebuilding the 113 files downstream of it; the attributes look like a nice separate small PR.

Two further thoughts, not left as suggestions:

1. A lemma `norm_petersson_self : ‖petersson k f f τ‖ = ‖f τ‖ ^ 2 * τ.im ^ k` would remove the `rpow` juggling from `hC` here, and would also shorten the existing `CuspFormClass.exists_bound`.
2. A `ContinuousOn.memLp_isCompact` sibling of `MonotoneOn.memLp_isCompact` (`IsCompact s → ContinuousOn f s → MemLp f p (μ.restrict s)`, four lines via `MemLp.of_bound`) would be the natural home for the `MemLp` fact used in the Bessel argument, though here the direct two-call composition is just as short.

Sanity checks done on the maths: the statements, exponents and normalisations match Rudnick's Petersson-formula notes (Theorem 1.2 and eq. (1)) and Iwaniec, *Topics in classical automorphic forms*, Theorem 5.1; the exponent `k` is sharp (Rankin–Selberg) and the constant `exp(4π/h) · B²` is the one from the notes.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 7]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+    intervalIntegral.integral_mono_on hh.le (Continuous.intervalIntegrable (by fun_prop) 0 h)
+      intervalIntegrable_const fun x _ ↦ key _ (by simp)
+  -- The result follows by comining this bound with the Bessel estimate for the norm square of the
+  -- `q`-expansion coefficients in terms of the integral
+  have hfbdd : IsBoundedAtImInfty f := ModularFormClass.bdd_at_infty f
+  have hfper : Function.Periodic (f ∘ ofComplex) h :=
+    SlashInvariantFormClass.periodic_comp_ofComplex f Γ.strictWidthInfty_mem_strictPeriods
+  grw [sum_range_norm_sq_qExpansion_coeff_le hh hfper hfhol hfbdd hy M, hint₀,
+    show 4 * π * M * (1 / M) / h = 4 * π / h by field_simp]
+  simp [field]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **S5** (golf, 36 → 28 lines, all comments kept, "comining" fixed): the `rpow` juggling in `hC` is one `simpa [field, ← Real.rpow_mul_natCast …]`, the `M = 0` case is `positivity`, and the single-use `have`s feed the final `grw` directly. (Superseded by S7 if that is taken.)

```suggestion
  -- Work with the natural period at infinity, which is positive for an arithmetic subgroup.
  let h := Γ.strictWidthInfty
  have hh : 0 < h := Γ.strictWidthInfty_pos
  -- Squaring Hecke's bound gives a uniform bound for `‖f τ‖² * (im τ) ^ k`.
  obtain ⟨B, hB⟩ := CuspFormClass.exists_bound f
  have hC (τ : ℍ) : ‖f τ‖ ^ 2 * τ.im ^ k ≤ B ^ 2 := by
    simpa [field, ← Real.rpow_mul_natCast τ.im_pos.le]
      using pow_le_pow_left₀ (norm_nonneg _) (hB τ) 2
  refine ⟨Real.exp (4 * π / h) * B ^ 2, fun M ↦ ?_⟩
  -- The empty partial sum is immediate, so assume from now on that `M` is positive.
  rcases M.eq_zero_or_pos with rfl | hM
  · positivity
  -- On the horizontal line of height `1 / M`, Hecke's bound is at most `B² * M ^ k`.
  have hy : (0 : ℝ) < 1 / M := by positivity
  have key (τ : ℍ) (hτ : τ.im = 1 / M) : ‖f τ‖ ^ 2 ≤ B ^ 2 * M ^ k :=
    (div_le_iff₀ (by positivity)).mp (by simpa only [hτ, one_div_pow, mul_one_div] using hC τ)
  -- Integrating this over a period gives a bound for the integral of `‖f‖ ^ 2`
  have hint₀ : ∫ x in 0..h, ‖f ⟨x + (1 / M : ℝ) * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2 ≤
      ∫ x in 0..h, B ^ 2 * M ^ k :=
    intervalIntegral.integral_mono_on hh.le (Continuous.intervalIntegrable (by fun_prop) 0 h)
      intervalIntegrable_const fun x _ ↦ key _ (by simp)
  -- The result follows by combining this bound with the Bessel estimate for the norm square of the
  -- `q`-expansion coefficients in terms of the integral
  grw [sum_range_norm_sq_qExpansion_coeff_le hh
    (SlashInvariantFormClass.periodic_comp_ofComplex f Γ.strictWidthInfty_mem_strictPeriods)
    (ModularFormClass.holo f) (ModularFormClass.bdd_at_infty f) hy M, hint₀]
  simp [field, hM.ne']
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean (hunk 5 above)
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **3** Parseval as an equality (`HasSum` over `ℕ`): the negative-index Fourier coefficients of `x ↦ f (x + iy)` vanish by Cauchy's theorem for `z ^ n * cuspFunction h f z` on a circle in the `q`-disc (reusing the change of variables of `qExpansion_coeff_eq_intervalIntegral`), and then `hasSum_sq_fourierCoeffOn` regrouped over `ℕ` gives Parseval; the Bessel inequality becomes a one-line corollary. This replaces the docstring, statement and proof of `sum_range_norm_sq_qExpansion_coeff_mul_exp_le` (the statement is unchanged).

```suggestion
/-- The negative-index Fourier coefficients of the restriction of `f` to a horizontal line vanish:
this is Cauchy's theorem for `z ^ n * cuspFunction h f z` on the circle
`‖z‖ = exp (-2 * π * y / h)` in the `q`-disc. -/
lemma fourierCoeffOn_neg_eq_zero {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) (n : ℕ) :
    fourierCoeffOn hh (fun x : ℝ ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩)
      (-(n + 1 : ℕ) : ℤ) = 0 := by
  -- We use the circle of radius `R = exp (-2 * π * y / h)` in the `q`-disc.
  let R := Real.exp (-2 * π * y / h)
  have hR0 : 0 < R := Real.exp_pos _
  have hR1 : R < 1 := Real.exp_lt_one_iff.2 <| by simpa [neg_div] using div_pos (by positivity) hh
  -- Cauchy's theorem for the holomorphic function `z ^ n * cuspFunction h f z`.
  have hcirc : ∮ z in C(0, R), z ^ n * cuspFunction h f z = 0 := by
    refine Complex.circleIntegral_eq_zero_of_differentiable_on_off_countable hR0.le
      Set.countable_empty ((continuous_pow n).continuousOn.mul
        (((differentiableOn_cuspFunction_ball hh hfper hfhol hfbdd).mono
          (Metric.closedBall_subset_ball hR1)).continuousOn)) fun z hz ↦ ?_
    exact (differentiableAt_pow n).mul (differentiableAt_cuspFunction hh hfper hfhol hfbdd
      ((mem_ball_zero_iff.mp hz.1).trans hR1))
  -- Rescale the circle integral from `0 .. 2 * π` to `0 .. h`.
  rw [circleIntegral, show 2 * π = h * (2 * π / h) by field_simp] at hcirc
  conv at hcirc => enter [1, 2]; rw [show (0 : ℝ) = 0 * (2 * π / h) by simp]
  rw [← intervalIntegral.smul_integral_comp_mul_right, Complex.real_smul] at hcirc
  -- Compare the integrands.
  have key (u : ℝ) : deriv (circleMap 0 R) (u * (2 * π / h)) •
      (circleMap 0 R (u * (2 * π / h)) ^ n * cuspFunction h f (circleMap 0 R (u * (2 * π / h)))) =
      (Complex.I * R ^ (n + 1)) * (fourier (-(-(n + 1 : ℕ) : ℤ)) (u : AddCircle h) •
        f ⟨u + y * UpperHalfPlane.I, by simpa using hy⟩) := by
    have h1 : circleMap 0 R (u * (2 * π / h)) =
        𝕢 h (⟨u + y * UpperHalfPlane.I, by simpa using hy⟩ : ℍ) := by
      simp only [circleMap, Complex.ofReal_exp, ← Complex.exp_add, zero_add, R,
        Function.Periodic.qParam, UpperHalfPlane.coe_I]
      congr 1
      push_cast
      have := Complex.I_sq
      grind
    have h2 : cuspFunction h f (circleMap 0 R (u * (2 * π / h))) =
        f ⟨u + y * UpperHalfPlane.I, by simpa using hy⟩ := by
      rw [h1]
      exact eq_cuspFunction _ hh.ne' hfper
    have h3 : fourier (-(-(n + 1 : ℕ) : ℤ)) (u : AddCircle h) =
        Complex.exp (u * (2 * π / h) * Complex.I) ^ (n + 1) := by
      rw [neg_neg, fourier_coe_apply, ← Complex.exp_nat_mul]
      congr 1
      push_cast
      field_simp
    rw [deriv_circleMap, h2, h3]
    simp only [circleMap, zero_add, smul_eq_mul]
    push_cast
    ring
  simp_rw [key, intervalIntegral.integral_const_mul] at hcirc
  rw [← mul_assoc] at hcirc
  have hc : ((2 * π / h : ℝ) : ℂ) * (Complex.I * R ^ (n + 1)) ≠ 0 := by
    simp [Complex.I_ne_zero, hR0.ne', hh.ne', Real.pi_ne_zero]
  rw [fourierCoeffOn_eq_integral, sub_zero, (mul_eq_zero.mp hcirc).resolve_left hc, smul_zero]

/-- **Parseval's identity** for the `q`-expansion: the sum of the squared norms of the
`q`-expansion coefficients, weighted by `exp (-4 * π * n * y / h)`, is the mean square of `f`
along the horizontal line `im τ = y`. -/
lemma hasSum_norm_sq_qExpansion_coeff_mul_exp {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) :
    HasSum (fun n : ℕ ↦ ‖(qExpansion h f).coeff n‖ ^ 2 * Real.exp (-(4 * π * n * y / h)))
      (h⁻¹ * ∫ x in 0..h, ‖f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2) := by
  let g : ℝ → ℂ := fun x ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩
  have hg : Continuous g := hfhol.continuous.comp (by fun_prop)
  -- Parseval over `ℤ`, regrouped as a sum over `ℕ` of the terms `n` and `-(n + 1)`.
  have hP := (hasSum_sq_fourierCoeffOn hh <|
    (MeasureTheory.memLp_two_iff_integrable_sq_norm hg.aestronglyMeasurable).2
      (hg.norm.pow 2).integrableOn_Ioc).nat_add_neg_add_one
  simp only [sub_zero, smul_eq_mul] at hP
  convert hP using 2 with n
  -- The negative-index terms vanish.
  rw [show (-((n : ℤ) + 1) : ℤ) = -(n + 1 : ℕ) by push_cast; ring,
    fourierCoeffOn_neg_eq_zero hh hfper hfhol hfbdd hy n, norm_zero, zero_pow two_ne_zero, add_zero]
  -- The nonnegative terms are the rescaled `q`-expansion coefficients.
  have h1 : Real.exp (2 * π * n * y / h) ^ 2 * Real.exp (-(4 * π * n * y / h)) = 1 := by
    rw [sq, ← Real.exp_add, ← Real.exp_add, Real.exp_eq_one_iff]
    ring
  rw [qExpansion_coeff_eq_exp_mul_fourierCoeffOn hh hfper hfhol hfbdd hy n, norm_mul,
    Complex.norm_of_nonneg (Real.exp_pos _).le, mul_pow, mul_right_comm, h1, one_mul]

/--
Bound for the sum of the squared norms of the first `M` `q`-expansion coefficients with an
exponentially-decaying weight term, in terms of the integral of `‖f‖ ^ 2` along a horizontal
line.

(This is Bessel's inequality for the Fourier series of the periodic function `f (· + I * y)`; see
`hasSum_norm_sq_qExpansion_coeff_mul_exp` for the corresponding equality.)
-/
lemma sum_range_norm_sq_qExpansion_coeff_mul_exp_le {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) (M : ℕ) :
    ∑ n ∈ Finset.range M,
        ‖(qExpansion h f).coeff n‖ ^ 2 * Real.exp (-(4 * π * n * y / h)) ≤
      h⁻¹ * ∫ x in 0..h,
        ‖f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2 :=
  sum_le_hasSum _ (fun _ _ ↦ by positivity)
    (hasSum_norm_sq_qExpansion_coeff_mul_exp hh hfper hfhol hfbdd hy)
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean (hunk 7 above)
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **5** the mean-square bound for **any strict period** `h` of `Γ` (same proof, golfed: the `rpow` juggling in `hC` is one `simpa [field, ← Real.rpow_mul_natCast …]`, the `M = 0` case is `positivity`, and the single-use `have`s feed the final `grw` directly; all comments kept, "comining" fixed), with the `strictWidthInfty` statement as a one-line corollary and an `IsBigO` form. Replaces the docstring, statement and proof of the main theorem.

```suggestion
/-- **Mean-square bound** for q-expansion coefficients of a cusp form, with respect to any strict
period `h` of `Γ`: the sum of the squared norms of the first `M` coefficients is bounded by a
constant multiple of `M ^ k`. -/
lemma CuspFormClass.exists_sum_range_norm_sq_qExpansion_coeff_le_of_mem_strictPeriods
    {k : ℕ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.IsArithmetic]
    {F : Type*} [FunLike F ℍ ℂ] [CuspFormClass F Γ (k : ℤ)] (f : F)
    {h : ℝ} (hh : 0 < h) (hΓ : h ∈ Γ.strictPeriods) :
    ∃ C, ∀ M, ∑ n ∈ .range M, ‖(qExpansion h f).coeff n‖ ^ 2 ≤ C * M ^ k := by
  -- Squaring Hecke's bound gives a uniform bound for `‖f τ‖² * (im τ) ^ k`.
  obtain ⟨B, hB⟩ := CuspFormClass.exists_bound f
  have hC (τ : ℍ) : ‖f τ‖ ^ 2 * τ.im ^ k ≤ B ^ 2 := by
    simpa [field, ← Real.rpow_mul_natCast τ.im_pos.le]
      using pow_le_pow_left₀ (norm_nonneg _) (hB τ) 2
  refine ⟨Real.exp (4 * π / h) * B ^ 2, fun M ↦ ?_⟩
  -- The empty partial sum is immediate, so assume from now on that `M` is positive.
  rcases M.eq_zero_or_pos with rfl | hM
  · positivity
  -- On the horizontal line of height `1 / M`, Hecke's bound is at most `B² * M ^ k`.
  have hy : (0 : ℝ) < 1 / M := by positivity
  have key (τ : ℍ) (hτ : τ.im = 1 / M) : ‖f τ‖ ^ 2 ≤ B ^ 2 * M ^ k :=
    (div_le_iff₀ (by positivity)).mp (by simpa only [hτ, one_div_pow, mul_one_div] using hC τ)
  -- Integrating this over a period gives a bound for the integral of `‖f‖ ^ 2`
  have hint₀ : ∫ x in 0..h, ‖f ⟨x + (1 / M : ℝ) * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2 ≤
      ∫ x in 0..h, B ^ 2 * M ^ k :=
    intervalIntegral.integral_mono_on hh.le (Continuous.intervalIntegrable (by fun_prop) 0 h)
      intervalIntegrable_const fun x _ ↦ key _ (by simp)
  -- The result follows by combining this bound with the Bessel estimate for the norm square of the
  -- `q`-expansion coefficients in terms of the integral
  grw [sum_range_norm_sq_qExpansion_coeff_le hh
    (SlashInvariantFormClass.periodic_comp_ofComplex f hΓ) (ModularFormClass.holo f)
    (ModularFormClass.bdd_at_infty f) hy M, hint₀]
  simp [field, hM.ne']

/-- **Mean-square bound** for q-expansion coefficients of a cusp form: the sum of the squared
norms of the first `M` coefficients is bounded by a constant multiple of `M ^ k`. -/
lemma CuspFormClass.exists_sum_range_norm_sq_qExpansion_coeff_le
    {k : ℕ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.IsArithmetic]
    {F : Type*} [FunLike F ℍ ℂ] [CuspFormClass F Γ (k : ℤ)] (f : F) :
    ∃ C, ∀ M, ∑ n ∈ .range M, ‖(qExpansion Γ.strictWidthInfty f).coeff n‖ ^ 2 ≤ C * M ^ k :=
  -- Work with the natural period at infinity, which is positive for an arithmetic subgroup.
  exists_sum_range_norm_sq_qExpansion_coeff_le_of_mem_strictPeriods f Γ.strictWidthInfty_pos
    Γ.strictWidthInfty_mem_strictPeriods

/-- **Mean-square bound** for q-expansion coefficients of a cusp form, `IsBigO` form: the sum of
the squared norms of the first `M` coefficients is `O(M ^ k)`. -/
lemma CuspFormClass.sum_range_norm_sq_qExpansion_coeff_isBigO
    {k : ℕ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.IsArithmetic]
    {F : Type*} [FunLike F ℍ ℂ] [CuspFormClass F Γ (k : ℤ)] (f : F) :
    (fun M : ℕ ↦ ∑ n ∈ .range M, ‖(qExpansion Γ.strictWidthInfty f).coeff n‖ ^ 2)
      =O[atTop] fun M ↦ (M : ℝ) ^ k := by
  obtain ⟨C, hC⟩ := CuspFormClass.exists_sum_range_norm_sq_qExpansion_coeff_le f
  exact isBigO_of_le' (c := C) _ fun M ↦ by
    simpa [Real.norm_of_nonneg (Finset.sum_nonneg fun _ _ ↦ sq_nonneg _),
      Real.norm_of_nonneg (by positivity : (0 : ℝ) ≤ (M : ℝ) ^ k)] using hC M
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 8]
```diff
@@ -7,6 +7,7 @@ module
 
 public import Mathlib.Analysis.Complex.TaylorSeries
 public import Mathlib.Analysis.Complex.UpperHalfPlane.Exp
+public import Mathlib.Analysis.Fourier.AddCircle
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]: **1(a)** (goes with 1(b), 1(c), 1(d)): keep the Fourier / L² import out of `QExpansion.lean`. This import adds 139 transitive modules to the 19 files downstream of `QExpansion.lean`, whereas `Bounds.lean` has a single downstream file (`LFunction.lean`), so the lemma below can live there instead.

```suggestion
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 9]
```diff
@@ -342,6 +343,25 @@ lemma qExpansion_coeff_eq_intervalIntegral {f : ℍ → ℂ} (hh : 0 < h)
...
+    rw [fourier_coe_apply, Periodic.qParam, coe_I, one_div, ← exp_nat_mul, ← exp_neg, ofReal_exp,
+      ← exp_add]
+    push_cast
+    grind [I_sq]
+  rw [qExpansion_coeff_eq_intervalIntegral hh hfper hfhol hfbdd n hy,
+    fourierCoeffOn_eq_integral, sub_zero]
+  simp_rw [smul_eq_mul, hq, mul_assoc, intervalIntegral.integral_const_mul, real_smul]
+  norm_cast
+  grind
+
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]: **1(b)** (goes with 1(a), 1(c), 1(d)): the lemma moves to `Bounds.lean` (see 1(d)), keeping its name and with a slightly golfed proof.

```suggestion
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 10]
```diff
@@ -5,6 +5,7 @@ Authors: David Loeffler
 -/
 module
 
+import Mathlib.Analysis.Fourier.AddCircle
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **1(c)** (goes with 1(a), 1(b), 1(d)): the moved lemma mentions `fourierCoeffOn` in its statement, so the import becomes public here.

```suggestion
public import Mathlib.Analysis.Fourier.AddCircle
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 11]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
   rw [petersson, ← Real.rpow_mul_natCast τ.im_pos.le]
   simp [abs_of_pos τ.im_pos, field]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean:226]: **1(d)** (goes with 1(a), 1(b), 1(c)): `qExpansion_coeff_eq_exp_mul_fourierCoeffOn`, moved here from `QExpansion.lean` (statement unchanged; `Real.pi` is `π` in this file; proof golfed: `push_cast [...]` absorbs the rewrite chain and the terminal `norm_cast; grind` is just `mul_left_comm`).

```suggestion

/-- The `n`-th `q`-expansion coefficient is an exponentially rescaled Fourier coefficient of the
restriction of the function to a horizontal line. -/
lemma UpperHalfPlane.qExpansion_coeff_eq_exp_mul_fourierCoeffOn {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) (n : ℕ) :
    (qExpansion h f).coeff n = Real.exp (2 * π * n * y / h) *
      fourierCoeffOn hh (fun x : ℝ ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩) n := by
  have hq (u : ℝ) : (1 / 𝕢 h (u + y * UpperHalfPlane.I) ^ n : ℂ) =
      ↑(Real.exp (2 * π * n * y / h)) * fourier (-(n : ℤ)) (u : AddCircle h) := by
    push_cast [fourier_coe_apply, Function.Periodic.qParam, one_div, ← Complex.exp_nat_mul,
      ← Complex.exp_neg, ← Complex.exp_add]
    grind [Complex.I_sq]
  rw [qExpansion_coeff_eq_intervalIntegral hh hfper hfhol hfbdd n hy,
    fourierCoeffOn_eq_integral, sub_zero]
  simp_rw [hq, mul_assoc, intervalIntegral.integral_const_mul]
  simp [mul_left_comm]

```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean [hunk 12]
```diff
@@ -473,14 +473,16 @@ theorem ContMDiffOn.mdifferentiableOn (hf : CMDiff[s] n f) (hn : n ≠ 0) : MDif
 theorem ContMDiff.mdifferentiable (hf : CMDiff n f) (hn : n ≠ 0) : MDiff f :=
   fun x => (hf x).mdifferentiableAt hn
 
+/-! ### Deriving continuity from differentiability on manifolds -/
+
+@[fun_prop]
```
Comment (CBirkbeck) [inline Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:478]: **7** These two attributes aren't needed for this PR: the one place that uses `fun_prop` on a bare `MDiff f` hypothesis works as `hfhol.continuous.comp (by fun_prop)` (which is what suggestion 3 uses), and `ModularFormClass.continuous` is already `@[fun_prop]` for the cusp-form case. Dropping this file from the PR avoids rebuilding the 113 files downstream of it; the attributes (and moving the section header) look like a nice separate small PR. (Keeping the file as is also compiles with all the other suggestions.)

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 13]
```diff
@@ -221,6 +222,111 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+-/
+lemma sum_range_norm_sq_qExpansion_coeff_mul_exp_le {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
+    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
+    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) (M : ℕ) :
+    ∑ n ∈ Finset.range M,
+        ‖(qExpansion h f).coeff n‖ ^ 2 * Real.exp (-(4 * π * n * y / h)) ≤
+      h⁻¹ * ∫ x in 0..h,
+        ‖f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2 := by
+  let g : ℝ → ℂ := fun x ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩
+  have hg : Continuous g := by fun_prop
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **S9** (with the comment on `MFDeriv/Basic.lean`): continuity of `g` without the new `fun_prop` attributes. (Not needed if S6 is taken, which already uses this form.)

```suggestion
  have hg : Continuous g := hfhol.continuous.comp (by fun_prop)
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 14]
```diff
@@ -18,6 +19,8 @@ bounds for its q-expansion coefficients. The main results are
   is bounded by a constant multiple of `max 1 (1 / (im τ) ^ k))`.
 * `CuspFormClass.exists_bound`: a cusp form of weight `k` (for an arithmetic subgroup `Γ`)
   is bounded by a constant multiple of `1 / (im τ) ^ (k / 2)`.
+* `CuspFormClass.exists_sum_range_norm_sq_qExpansion_coeff_le`: the sum of the squared norms of
+  the first `M` q-expansion coefficients of a cusp form is `O(M ^ k)`.
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: **6** module docstring bullets for 3 and 5.

```suggestion
* `hasSum_norm_sq_qExpansion_coeff_mul_exp`: **Parseval's identity** for `q`-expansions, expressing
  the mean square of `f` along a horizontal line as a weighted sum of the squared norms of the
  `q`-expansion coefficients.
* `CuspFormClass.exists_sum_range_norm_sq_qExpansion_coeff_le_of_mem_strictPeriods` and
  `CuspFormClass.exists_sum_range_norm_sq_qExpansion_coeff_le`: the sum of the squared norms of
  the first `M` q-expansion coefficients of a cusp form is `O(M ^ k)` (for any strict period, and
  for the strict width at infinity respectively; see also
  `CuspFormClass.sum_range_norm_sq_qExpansion_coeff_isBigO`).
```

File: Mathlib/Geometry/Manifold/MFDeriv/Basic.lean (hunk 12 above)
Comment (loefflerd) [reply Mathlib/Geometry/Manifold/MFDeriv/Basic.lean:478]: I'd rather leave this one here, because it improves mathlib for other contributors / applications as well. I suppose we could make another small PR for this, for ease of reviewing, and then rebase the present PR on top of it later; but that would slow things down unnecessarily.

File: Mathlib/NumberTheory/ModularForms/Bounds.lean (hunk 11 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/Bounds.lean:226]: ~~Not sure I agree. Minimizing imports isn't the sole criterion for where lemmas should go, particularly when these files already import virtually the whole of mathlib anyway. Lemmas should go where they logically belong.~~ EDIT: I changed my mind after seeing quite how many imports are involved.

File: Mathlib/NumberTheory/ModularForms/Bounds.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/Bounds.lean]: (this is a good suggestion but it is also covered by C.B.'s bot-review so I'm going to apply that instead)

**Comment by loefflerd** [comment]
@CBirkbeck Your bot made some good suggestions, but I'm not super happy with the new lemma `fourierCoeffOn_neg_eq_zero`: it should be in the `UpperHalfPlane` namespace for a start, but besides that, the proof seems a bit long and convoluted, very much "first-draft AI output". I'm sure I could golf it if I had to; but can you ask your bot to golf it a bit first? Please also reinstate the `fun_prop` in `hasSum_norm_sq_qExpansion_coeff_mul_exp` since I disagreed with suggestion (7).

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 15]
```diff
@@ -221,6 +228,195 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+      field_simp
+    rw [deriv_circleMap, h2, h3]
+    simp only [circleMap, zero_add, smul_eq_mul]
+    push_cast
+    ring
+  simp_rw [key, intervalIntegral.integral_const_mul] at hcirc
+  rw [← mul_assoc] at hcirc
+  have hc : ((2 * π / h : ℝ) : ℂ) * (Complex.I * R ^ (n + 1)) ≠ 0 := by
+    simp [Complex.I_ne_zero, hR0.ne', hh.ne', Real.pi_ne_zero]
+  rw [fourierCoeffOn_eq_integral, sub_zero, (mul_eq_zero.mp hcirc).resolve_left hc, smul_zero]
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: Golfed and moved into the `UpperHalfPlane` namespace (56 → 44 lines including the docstring). The proof no longer redoes the change of variables: up to a constant, the `-(n+1)`-th Fourier coefficient is the constant term of the `q`-expansion of `g = 𝕢 ^ (n + 1) * f`, and `qExpansion_coeff_eq_intervalIntegral` at index `0` for `g` (whose constant term vanishes since `g → 0` at `I∞`) gives the result.

```suggestion
/-- The negative-index Fourier coefficients of the restriction of `f` to a horizontal line vanish:
up to a constant, the `-(n + 1)`-th coefficient is the constant term of the `q`-expansion of
`𝕢 ^ (n + 1) * f`, which vanishes at the cusp. -/
lemma UpperHalfPlane.fourierCoeffOn_neg_eq_zero {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) (n : ℕ) :
    fourierCoeffOn hh (fun x : ℝ ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩)
      (-(n + 1 : ℕ) : ℤ) = 0 := by
  -- Up to a constant, this is the constant term of the `q`-expansion of `g = 𝕢 ^ (n + 1) * f`,
  -- which vanishes since `g` tends to `0` at `I∞`.
  set g : ℍ → ℂ := fun τ ↦ 𝕢 h τ ^ (n + 1) * f τ with hg
  have hgper : Function.Periodic (g ∘ ofComplex) h := fun z ↦ by
    rcases le_or_gt z.im 0 with hz | hz
    · simp [g, ofComplex_apply_of_im_nonpos hz,
        ofComplex_apply_of_im_nonpos (by simpa using hz : (z + h).im ≤ 0)]
    · have := hfper z
      simp only [Function.comp_apply, ofComplex_apply_of_im_pos hz,
        ofComplex_apply_of_im_pos (by simpa using hz : 0 < (z + h).im), g, coe_mk] at this ⊢
      rw [this, Function.Periodic.qParam, Function.Periodic.qParam, mul_add, add_div,
        mul_div_cancel_right₀ _ (Complex.ofReal_ne_zero.mpr hh.ne'), Complex.exp_add,
        Complex.exp_two_pi_mul_I, mul_one]
  have hghol : MDiff g :=
    ((Function.Periodic.differentiable_qParam.mdifferentiable.comp mdifferentiable_coe).pow _).mul
      hfhol
  have hgzero : IsZeroAtImInfty g :=
    (by simpa using (qParam_tendsto_atImInfty hh).pow (n + 1) :
      Tendsto (fun τ : ℍ ↦ 𝕢 h τ ^ (n + 1)) atImInfty (𝓝 0)).zero_mul_isBoundedUnder_le
      hfbdd.isBoundedUnder_le
  have h0 : (qExpansion h g).coeff 0 = 0 := by
    rw [qExpansion_coeff_zero hh (analyticAt_cuspFunction_zero hh hgper hghol
      hgzero.isBoundedAtImInfty) hgper, hgzero.valueAtInfty_eq_zero]
  have hint := qExpansion_coeff_eq_intervalIntegral hh hgper hghol hgzero.isBoundedAtImInfty 0 hy
  simp only [h0, pow_zero, div_one, one_mul] at hint
  have key (u : ℝ) : fourier (-(-(n + 1 : ℕ) : ℤ)) (u : AddCircle h) •
      f ⟨u + y * UpperHalfPlane.I, by simpa using hy⟩ =
        Real.exp (2 * π * (n + 1) * y / h) * g ⟨u + y * UpperHalfPlane.I, by simpa using hy⟩ := by
    simp only [g, neg_neg, fourier_coe_apply, smul_eq_mul, Function.Periodic.qParam,
      ← Complex.exp_nat_mul, Complex.ofReal_exp, ← mul_assoc, ← Complex.exp_add]
    congr 2
    push_cast
    grind [Complex.I_sq]
  rw [fourierCoeffOn_eq_integral, sub_zero]
  simp_rw [key, intervalIntegral.integral_const_mul]
  rw [(mul_eq_zero.mp hint.symm).resolve_left (by simp [hh.ne']), mul_zero, smul_zero]
```

File: Mathlib/NumberTheory/ModularForms/Bounds.lean [hunk 16]
```diff
@@ -221,6 +228,195 @@ lemma CuspFormClass.exists_bound {k : ℤ} {Γ : Subgroup (GL (Fin 2) ℝ)} [Γ.
...
+/-- **Parseval's identity** for the `q`-expansion: the sum of the squared norms of the
+`q`-expansion coefficients, weighted by `exp (-4 * π * n * y / h)`, is the mean square of `f`
+along the horizontal line `im τ = y`. -/
+lemma hasSum_norm_sq_qExpansion_coeff_mul_exp {f : ℍ → ℂ} {h : ℝ} (hh : 0 < h)
+    (hfper : Function.Periodic (f ∘ ofComplex) h) (hfhol : MDiff f)
+    (hfbdd : IsBoundedAtImInfty f) {y : ℝ} (hy : 0 < y) :
+    HasSum (fun n : ℕ ↦ ‖(qExpansion h f).coeff n‖ ^ 2 * Real.exp (-(4 * π * n * y / h)))
+      (h⁻¹ * ∫ x in 0..h, ‖f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩‖ ^ 2) := by
+  let g : ℝ → ℂ := fun x ↦ f ⟨x + y * UpperHalfPlane.I, by simpa using hy⟩
+  have hg : Continuous g := hfhol.continuous.comp (by fun_prop)
```
Comment (CBirkbeck) [inline Mathlib/NumberTheory/ModularForms/Bounds.lean]: `fun_prop` reinstated, as requested.

```suggestion
  have hg : Continuous g := by fun_prop
```

**Review by CBirkbeck — COMMENTED** [review]
@loefflerd Thanks! Two `suggestion` comments below, again generated by Claude Code (run by me) and compile-checked against the current head `26f0069`, with `Bounds.lean`, `LFunction.lean` and `lint-style` clean:

- `fourierCoeffOn_neg_eq_zero` moved into the `UpperHalfPlane` namespace with a shorter, less convoluted proof: instead of redoing the circle-integral change of variables, it applies your `qExpansion_coeff_eq_intervalIntegral` at index `0` to `g = 𝕢 ^ (n + 1) * f`, whose constant term vanishes because `g → 0` at `I∞`.
- `fun_prop` reinstated in `hasSum_norm_sq_qExpansion_coeff_mul_exp`.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

**Comment by CBirkbeck** [comment]
Ok I (human Chris) think this all looks good!

**Comment by loefflerd** [comment]
I tried implementing your bot's suggestion of factoring out a `norm_petersson_self` lemma; but the end result was to make the proofs slightly longer than before! Maybe your bot has some cleverer way of doing this I didn't spot; can you ask your bot to try implementing this, & make a suggestion here if it ends up reducing the number of lines overall?

**Comment by CBirkbeck** [comment]
*(Chris's bot again, advisory as before; ignore freely.)*

**Re `norm_petersson_self`:** your observation stands. I tried every arrangement I could find with the lemma factored out (`‖petersson k f f τ‖ = ‖f τ‖ ^ 2 * τ.im ^ k`, a one-line `simp [petersson, sq, abs_of_pos τ.im_pos]` after `petersson_norm_symm`): the lemma costs 4 lines and saves at most 2 (in `ModularFormClass.exists_bound`), and saves nothing in `CuspFormClass.exists_bound` or in the `hC` block of the new mean-square theorem, because the same `simp` set works inline. Every lemma-based variant came out 3 lines longer than its lemma-free counterpart, so I am not suggesting the lemma.

What does shorten things is a different proof shape: `Real.le_sqrt_of_sq_le` needs no nonnegativity side conditions, so the `sq_le_sq₀` / `sq_sqrt` step and the `hC' : 0 ≤ C` fact can go (net −5 lines). Both proofs concerned predate this PR and sit outside its diff, so GitHub won't let me attach suggestion blocks; here they are as plain code in case you want them (here or in a separate small PR). Both compile against 1bc30532 (`lake build Mathlib.NumberTheory.ModularForms.Bounds` clean, no new warnings); the two `--` comments in `ModularFormClass.exists_bound` are untouched and still accurate.

**1** `CuspFormClass.exists_bound` (lines 224–229, 7 → 3 lines): replace everything after `obtain ⟨C, hC⟩ := petersson_bounded_left k Γ f f` with
```lean
  refine ⟨C.sqrt, fun τ ↦ (le_div_iff₀ (by positivity)).mpr (Real.le_sqrt_of_sq_le ?_)⟩
  simpa [petersson, sq, abs_of_pos τ.im_pos, ← Real.rpow_mul_natCast τ.im_pos.le, field] using hC τ
```

**2** `ModularFormClass.exists_bound` (lines 415–421, −1 line): replace from `refine ⟨C.sqrt, fun τ ↦ ?_⟩` through `rw [← sq_le_sq₀ …, sq_sqrt hC']` with
```lean
  refine ⟨C.sqrt, fun τ ↦ (div_le_iff₀ (by positivity)).mp (Real.le_sqrt_of_sq_le ?_)⟩
  lift k to ℕ using hk
  specialize hC τ
  have h : 0 < ‖(τ.im : ℂ) ^ (k : ℤ)‖ := mod_cast norm_pos_iff.mpr (pow_ne_zero _ τ.im_ne_zero)
  rw [petersson, norm_mul, norm_mul, Complex.norm_conj, ← sq, ← le_div_iff₀ h, mul_div_assoc] at hC
  rw [div_pow, div_le_iff₀ (by positivity)]
```

**Comment by loefflerd** [comment]
I merged the two robo-golfs from Chris' bot (after checking that they are not un-neccessarily cryptic).

Since this has an approving review from Chris B, who knows the modular forms code as well as anyone even though he is not formally a reviewer, I hope the maintainers will forgive me if I maintainer-merge my own PR:

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
